US07863291B2
To 4-isopropylthiazol-2-amine (1.04 g, 7.31 mmol) in acetonitrile (30 mL) was added 1,1-thiocarbonyldiimidazole (1.7 g, 9.5 mmol). The reaction was stirred at 50° C. for 18 hours. The reaction was cooled to room temperature and the precipitate was filtered and washed with acetonitrile (2×50 mL). The yellow powder was dried in a vacuum oven (40° C.) for 2 hours. The product, N-(4-isopropylthiazol-2-yl)-1H-imidazole-1-carbothioamide (1.02 g, 4.04 mmol, 55.3% yield), was taken directly to the next step without any further purification.

reactant | 4-isopropylthiazol-2-amine | 7.31 mmol, 1.04 g | C(C)(C)C=1N=C(SC1)N | C6H10N2S
reactant | 1,1-thiocarbonyldiimidazole | 9.5 mmol, 1.7 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-(4-isopropylthiazol-2-yl)-1H-imidazole-1-carbothioamide | 4.04 mmol, 1.02 g, 55.3% yield | C(C)(C)C=1N=C(SC1)NC(=S)N1C=NC=C1 | C10H12N4S2
